US05536719
Stage A: 5,5-Dioxo-2,3-dihydro-1H-pyrrolo[2,1-c][1,2,4]-benzothi adiazine
5.8 mmol of 2-aminobenzenesulfonamide are dissolved in tetrahydrofuran (THF) at room temperature. This solution is cooled on an ice bath, and 6 mmol of 4-chlorobutanoyl chloride and 6 mmol of triethylamine are successively added. The mixture is stirred for 16 hours at room temperature, filtered and evaporated. The yellow solid obtained is taken up in 40 ml of 1N sodium hydroxide and stirred at room temperature. After complete dissolution, a white precipitate appears; it is filtered off and gives the expected product after crystallization from an ethanol/water (4/1) mixture.

reactant | 2-aminobenzenesulfonamide | 5.8 mmol | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | 4-chlorobutanoyl chloride | 6 mmol | ClCCCC(=O)Cl | C4H6Cl2O
reactant | triethylamine | 6 mmol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 40 ml | [OH-].[Na+]
product | 5,5-Dioxo-2,3-dihydro-1H-pyrrolo[2,1-c][1,2,4]-benzothi adiazine | O=S1(N=C2N(C3=C1C=CC=C3)CCC2)=O | C10H10N2O2S
